US05260316
2-(3-Phenylpropyl)-5-methoxy-3-hydroxy-1-oxo-1,3-dihydrobenzo[c]pyrrole (2.49 g, 8.38 mmol) is dissolved in HCl/EtOH (50 ml concentrated HCl, 150 ml EtOH), and N2 is bubbled through the solution for 10 minutes followed by the addition of the catalyst, 10% Pd/C (200 mg). The mixture is hydrogenated on a Parr-Shaker apparatus at 3 atmospheres pressure for 3 hours. After filtering the reaction through a pad of Celite, the filtrate is concentrated in vacuo, and the residue is dissolved in EtOAc (200 ml). The EtOAc is washed with 2N HCl (200 ml), H2O (200 ml), saturated NaHCO3 solution (200 ml) and saturated NaCl solution (200 ml) dried over MgSO4 and evaporated. The product is purified by chromatography (SiO2 ; 1:9 EtOAc/hexanes, 1:4 EtOAc/hexanes) to yield 2-(3-phenylpropyl)-5-methoxy-1-oxo-1,3-dihydrobenzo[c]pyrrole. Treatment with BBr3 yields 2-(3-phenylpropyl)-5 -hydroxy-1-oxo-1,3-dihydrobenzo[c]pyrrole.

reactant | 2-(3-Phenylpropyl)-5-methoxy-3-hydroxy-1-oxo-1,3-dihydrobenzo[c]pyrrole | 8.38 mmol, 2.49 g | C1(=CC=CC=C1)CCCN1C(C2=C(C1O)C=C(C=C2)OC)=O | C18H19NO3
solvent | HCl EtOH | 50 ml | Cl.CCO
product | 2-(3-phenylpropyl)-5-methoxy-1-oxo-1,3-dihydrobenzo[c]pyrrole | C1(=CC=CC=C1)CCCN1C(C2=C(C1)C=C(C=C2)OC)=O | C18H19NO2
